US05312929
Preparation of 2-methyl-2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)propanol
52.4 g (200 mmol) of ethyl 2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)isobutyrate was dissolved in 300 ml of tetrahydrofuran, and the solution was cooled to -30° C. In a dropping funnel, 7.6 g (200 mmol) of lithium alminum hydride was suspended in 100 ml of tetrahydrofuran, and the suspension was dropwise added at -30° C. After completion of the dropwise addition, the cooling medium was removed, and a suitable amount of water was added, and excess of lithium aluminum hydride was quenched. Insoluble material was removed by filtration, and the filtrate was concentrated and the solid thus obtained was washed with isoproyl ether to obtain 40.9 g (yield: 83%) of the desired product having a melting point of from 77° to 78° C.

reactant | ethyl 2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)isobutyrate | 200 mmol, 52.4 g | CC1=C(C(N(C1)C(C(=O)OCC)(C)C)=O)C1=CC=CC=C1 | C17H21NO3
reactant | lithium | 200 mmol, 7.6 g | [Li] | Li
reactant | hydride | [H-]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-methyl-2-(4-methyl-2-oxo-3-phenyl-3-pyrrolin-1-yl)propanol | 40.9 g, yield: 83% | CC(CO)(C)N1C(C(=C(C1)C)C1=CC=CC=C1)=O | C15H19NO2
